US07585885B2
(S)-2-sec-Butylamino-6-(2-methyl-2H-tetrazol-5-yl)-isonicotinic acid
Treat a solution of (S)-2-sec-butylamino-6-(2-methyl-2H-tetrazol-5-yl)-isonicotinic acid methyl ester (250 mg, 0.86 mmol) in methanol (5 mL) with 2 N NaOH (0.64 mL, 1.29 mmol). Stir at room temperature overnight, acidify the reaction to about pH=3 using 1 N HCl. Extract the reaction mixture with ethyl acetate (3×25 mL). Wash the combined organic layers with saturated aqueous sodium chloride, dry (sodium sulfate) and concentrate to give the title compound.

reactant | (S)-2-sec-butylamino-6-(2-methyl-2H-tetrazol-5-yl)-isonicotinic acid methyl ester | 0.86 mmol, 250 mg | COC(C1=CC(=NC(=C1)C=1N=NN(N1)C)N[C@@H](C)CC)=O | C13H18N6O2
reactant | NaOH | 1.29 mmol, 2 N, 0.64 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | (S)-2-sec-Butylamino-6-(2-methyl-2H-tetrazol-5-yl)-isonicotinic acid | [C@H](C)(CC)NC=1C=C(C(=O)O)C=C(N1)C=1N=NN(N1)C | C12H16N6O2
